US07148226B2
6-Cyclopentyl-6-[2-(5-ethyl-4-hydroxy-2-methoxy-phenyl)-ethyl]-4-hydroxy-3-(5-methyl-1H-imidazol-4-ylmethyl)-5,6-dihydro-pyran-2-one
The title compound was prepared analogously to Example A(126), where 6-Cyclopentyl-6-[2-(5-ethyl-4-hydroxy-2-methoxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione was substituted in place of 6-Cyclopentyl-6-[2-(3-ethyl-4-hydroxy-phenyl)-ethyl-dihydro-pyran-2,4-dione and 4-methyl-5-imidazol carboxaldehyde was substituted in place of 6-Methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde of that example. 1H NMR (400 MHz, DMSO-d6): δ 0.86 (t, J=7.5 Hz, 3H), 1.10–1.56 (m, 10H), 1.73–1.68 (m, 1H), 1.92 (s, 3H), 2.21–2.5 (m, 6H), 3.20–3.22 (m, 2H), 3.44 (s, 3H), 6.17 (s, 1H), 6.50 (s, 1H), 7.53 (s, 1H). Anal. Calcd. For C26H34N2O5.1H2O: C, 66.08; H, 7.68; N, 5.93. Found: C, 65.93; H, 7.66; N, 5.89. MS(ESI): 455.2 (M+H)+.

reactant | 6-Cyclopentyl-6-[2-(5-ethyl-4-hydroxy-2-methoxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=C(C=C(C(=C1)CC)O)OC | C21H28O5
reactant | 4-methyl-5-imidazol carboxaldehyde | CC=1N=CNC1C=O | C5H6N2O
reactant | 6-Methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC=1C=NC=2N(C1)N=C(N2)C=O | C7H6N4O
product | 6-Cyclopentyl-6-[2-(5-ethyl-4-hydroxy-2-methoxy-phenyl)-ethyl]-4-hydroxy-3-(5-methyl-1H-imidazol-4-ylmethyl)-5,6-dihydro-pyran-2-one | C1(CCCC1)C1(CC(=C(C(O1)=O)CC=1N=CNC1C)O)CCC1=C(C=C(C(=C1)CC)O)OC | C26H34N2O5
